US06235787B1
7.8 ml of piperidine and 20 ml of a 40% aqueous formaldehyde solution were added to a solution of 6.0 g of 1-tert.butyl dihydrogen 4-methyl-1(RS),1,2(R)-pentanetricarboxylate in 80 ml of isopropyl alcohol and the mixture was stirred overnight under a nitrogen atmosphere. The solvent was evaporated and the residue was dissolved in ethyl acetate. The ethyl acetate phase was washed in succession with 1M aqueous hydrochloric acid, warm water and brine and the dried over anhydrous magnesium sulphate. The solvent was evaporated to give 3.94 g of 2(R)-[1-(tertbutoxycarbonyl)vinyl]-4-methylvaleric acid in the form of a clear oil.

reactant | piperidine | 7.8 ml | N1CCCCC1 | C5H11N
reactant | formaldehyde | C=O | CH2O
reactant | 1-tert.butyl dihydrogen 4-methyl-1(RS),1,2(R)-pentanetricarboxylate | 6.0 g | CC(C[C@H](C(C(=O)OC(C)(C)C)C(=O)O)C(=O)O)C | C13H22O6
solvent | isopropyl alcohol | 80 ml | C(C)(C)O | C3H8O
product | 2(R)-[1-(tertbutoxycarbonyl)vinyl]-4-methylvaleric acid | 3.94 g | C(C)(C)(C)OC(=O)C(=C)[C@H](C(=O)O)CC(C)C | C13H22O4
